US07851474B2
Step 2. Preparation of tert-butyl 4-[benzyl(2-bromophenyl)carbamoyl]piperidine-1-carboxylate
A mixture of tert-butyl 4-[(2-bromophenyl)carbamoyl]piperidine-1-carboxylate (8 mmol), benzylbromide (1.05 ml, 8.8 mmol) and Cs2CO3 (5.2 g, 16 mmol) in DMF (20 ml) is stirred at rt overnight. DMF is removed in vacuo and the residue is partitioned between H2O (40 ml) and EtOAc (40 ml). The layers are separated and the aqueous layer is extracted with EtOAc (20 ml). The combined extracts are washed with brine (20 ml), dried over Na2SO4 and evaporated. The residue is purified by flash column to give the title compound as a light yellow oil.

reactant | tert-butyl 4-[(2-bromophenyl)carbamoyl]piperidine-1-carboxylate | 8 mmol | BrC1=C(C=CC=C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C17H23BrN2O3
reactant | benzylbromide | 8.8 mmol, 1.05 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Cs2CO3 | 16 mmol, 5.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-[benzyl(2-bromophenyl)carbamoyl]piperidine-1-carboxylate | C(C1=CC=CC=C1)N(C(=O)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)Br | C24H29BrN2O3
